US06329381B1
6-Amino-9-benzyl-2-(2-methoxyethoxy)purine
Sodium (66 mg, 2.9 mmol) in 50 ml of 2-methoxyethanol was added 6-amino-9-benzyl-2-chloropurine (150 mg, 0.58 mmol) and DMF (10 ml). The mixture was heated at 130° C. for 6 hour. The reaction mixture was concentrated in vacuo to dryness. To the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate and concentrated in vacuo to dryness. The residue was purified with silica gel chromatography (3% methanol/chloroform) to give the subject compound (123 mg, yield 71%).

reactant | Sodium | 2.9 mmol, 66 mg | [Na] | Na
reactant | 6-amino-9-benzyl-2-chloropurine | 0.58 mmol, 150 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 2-methoxyethanol | 50 ml | COCCO | C3H8O2
product | 6-Amino-9-benzyl-2-(2-methoxyethoxy)purine | 123 mg, yield 71% | NC1=C2N=CN(C2=NC(=N1)OCCOC)CC1=CC=CC=C1 | C15H17N5O2
